* ADR3425 SPICE MACROMODEL
****  ViKo исправил POLY, RES
* Description: Reference
* Generic Desc: 2.5Vout, 5.5Vin, CMOS REF, micro power
* Developed by: HH/ADSJ 
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 ( 02/2010)
* Copyright 2010, 2012 by Analog Devices, Inc.
*
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
*  NODE NUMBERS
*                VF
*                |  VS 
*                |  |   EN 
*                |  |   |  VIN
*                |  |   |   |   GS 
*                |  |   |   |   |  GF
*                |  |   |   |   |  | 
.SUBCKT ADR3425  6 100 101  2   5  4    
*
* 1.25V REFERENCE
I1     4  10   1.25E-05
R1     10  4   RTC 1.000E+05
*
G1     4  10   22  4  1E-6
F1     10  4   VS  3.38E-07;  Load regulation
RBODE 101 4   6E6;  
*
* LINE REGULATION
*
EPSY  (21,4) POLY(1) (2,4) -4.934063E+01 8.971023E+00
**** old EPSY   21 4    POLY(1) (2,4) -4.934063E+01 8.971023E+00
RPS1   21 22   5.684E+04
RPS2   22  4   1.592E-01
CPS1   21 22   1.000E-06
*
* INTERNAL OP AMP
*
R7   100 19   1E5;  100 is Vsense
R8    19  5   1E5;       5 is ground sense
EOS 19a 19 POLY(3) (22,4) (81, 5) (60, 61) 0 1 1 1  
G2  (4,11)  (10,19a)  1E-4;  10 is + input, 19 is minus input
R2   4  11   1E8
EZ (17b 4) (4 17) 1
RZ 17b  17a  5.3E+1
CF 17a 11   6.5E-09
D1     11 12   DX
V1     12  4   3.8
*
* SECONDARY POLE
*
G3     4  13   (11,4)  1E-5
R3     4  13   1E5
C2     4  13   5.0E-11
*
* VOLTAGE NOISE REFERENCE
*
VN1 80  5 0
RN1 80  5 6.78E-00
HN  81  5 VN1 1.5E+04
RN2 81  5 1
*
* FLICKER NOISE
*
D60 60 0 DIN1 1000
I60 0 60 1m
D61 61 0 DIN1
I61 0 61 1u
*
* ENABLE
*   ---  2 is Vin, 4 is GF, 101 is EN
S7test  10  4 (188, 4) SCLOSE; (4 of 5)
*
M7  188 101  2   2 PLX  L=1.0E-06 W=4.0E-06 
M8  188 101  4   4 NLX  L=1.0E-06 W=7.0E-06
Rpup 188 2 1E+08
*
* OUTPUT STAGE
*
****  GSY   (2,4) POLY(2) (2,4) (6,4)  -1.0E-06 2E-06 19E-06
GSY   2  4    POLY(2) (2,4) (6,4)  -1.0E-06 2E-06 19E-06
G4    4  14   (13,4)    1E-04
R4    4  14   1E6
M1    17 46 16 16 POX L=1E-6 W=5.50E-4;  DGSB
EG1    2 46 POLY(1) (14,4) 9.55E-01 1
M2    17 47  4  4 NOX L=1E-6 W=1.15E-3;  DGSB
EG2   47  4  POLY(1) (4,14) 1.0E-00 1
*
VS    17 18  DC 0;  output current sense
L1    18  6  1E-6; 6 is output
*
* OUTPUT CURRENT LIMIT
*
R6     2  16   6.85E+01
*
*.MODEL  QN  NPN(IS=1E-15  BF=1000)
.MODEL  DX  D(IS=1E-18)
.MODEL RTC res (R=1, DEV=1E-02, LOT=1E-03, TC1=1.5E-6, TC2=-1.5E-8)
**** old .MODEL RTC res (R=1, DEV=1E-02, TC1=1.5E-6, TC2=-1.5E-8)
.MODEL RKT res (R=1, TC1=1.0E+01)
.MODEL NOX NMOS( vto=0.9 kp=5E-06 rd=3E-0 rs=2E+01 LAMBDA=0.04)
.MODEL POX PMOS(vto=-0.9 kp=5E-06 rd=3E-0 rs=5E+0 LAMBDA=0.04); 
.MODEL DNOISE D(IS=1E-14,RS=0,KF=2.4E-09)
.MODEL DIN1 D(IS=1E-15, RS=3.70E+04, KF=1.8E-15, AF=1)
.MODEL PLX PMOS (LEVEL=2,KP=12.00E-05,VTO=-1.10, LAMBDA=0.05,RB=1E+00)
.MODEL NLX NMOS (LEVEL=2,KP=20.00E-05,VTO=+0.50, LAMBDA=0.05,RB=1E+00)
.MODEL SCLOSE VSWITCH (VON=2.0, VOFF=0.69, RON=1E-01, ROFF=1E+09)
*
.ENDS ADR3425
*






